US07893063B2
2-(3-acetamidophenyl)-4-(2-methoxypyrimidin-5-yl)-6-morpholinopyrimidine
A mixture of 2-(3-acetamidophenyl)-4-bromo-6-morpholinopyrimidine (0.037 g), 2-methoxypyrimidin-5-ylboronic acid (0.019 g), tetrakis(triphenylphosphine)palladium(0) (3 mg), a saturated aqueous sodium bicarbonate solution (0.2 ml) and 1,2-dimethoxyethane (2 ml) was stirred and heated to 60° C. for 18 hours under an atmosphere of nitrogen. A second portion of each of 2-methoxypyrimidin-5-ylboronic acid (0.019 g), tetrakis(triphenylphosphine)palladium(0) (2 mg), a saturated aqueous sodium bicarbonate solution (0.2 ml) and 1,2-dimethoxyethane (1 ml) was added and the resultant mixture was heated to 60° C. for a further 18 hours. The resultant reaction mixture was evaporated and the residue was triturated under a 5:1 mixture (1 ml) of methylene chloride and methanol. The soluble material was purified by column chromatography on reversed-phase silica using an ‘Isolute SCX’ column (1 g; International Sorbent Technology Limited, Mid Glamorgan, UK) by initially washing the column with methanol (5 ml) followed by elution with a 5:3:2 mixture of methanol, methylene chloride and a 7M methanolic ammonia solution. The material so obtained was dried under vacuum. There was thus obtained the title compound as a solid (0.034 g); NMR Spectrum: (DMSOd6) 2.05 (s, 3H), 3.66-3.8 (m, 8H), 3.97 (s, 3H), 7.3-7.37 (m, 2H), 7.82 (d, 1H), 8.03-8.09 (m, 1H), 8.52 (s, 1H), 9.38 (s, 2H), 9.98 (s, 1H); Mass Spectrum: M+H+407.

reactant | 2-(3-acetamidophenyl)-4-bromo-6-morpholinopyrimidine | 0.037 g | C(C)(=O)NC=1C=C(C=CC1)C1=NC(=CC(=N1)Br)N1CCOCC1 | C16H17BrN4O2
reactant | 2-methoxypyrimidin-5-ylboronic acid | 0.019 g | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
reactant | sodium bicarbonate | 0.2 ml | C([O-])(O)=O.[Na+]
reactant | 2-methoxypyrimidin-5-ylboronic acid | 0.019 g | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
reactant | sodium bicarbonate | 0.2 ml | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
product | 2-(3-acetamidophenyl)-4-(2-methoxypyrimidin-5-yl)-6-morpholinopyrimidine | 0.034 g | C(C)(=O)NC=1C=C(C=CC1)C1=NC(=CC(=N1)C=1C=NC(=NC1)OC)N1CCOCC1 | C21H22N6O3
